US05891871
7,8-Methylenedioxy-1-phenyl-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
A solution of methyl 2-benzoyl-4,5-methylenedioxyphenylacetate (110 mg, 0.37 mmol) and hydrazine hydrate (30 μL, 0.53 mmol) in ethanol (15 mL) was refluxed for 5 days. The solvent was removed in vacuo and the resulting residue was separated by chromatography to yield the title compound (30 mg, 0.11 mmol, 29%), mp, 182°-184° C. 1H NMR (CDCl3) 8.59 (s, 1H), 7.60-7.41 (m, 5H), 6.83 (s, 1H), 6.63 (s, 1H), 6.03 (s, 2H), 3.46 (s, 2H). Anal. Calcd. for C16H12N2O3.0.25H2O: C, 67.48; H, 4.42; N, 9.84. Found C, 67.25; H, 4.21; N, 9.88.

reactant | methyl 2-benzoyl-4,5-methylenedioxyphenylacetate | 0.37 mmol, 110 mg | C(C1=CC=CC=C1)(=O)C1=C(C=C2C(=C1)OCO2)CC(=O)OC | C17H14O5
reactant | hydrazine hydrate | 0.53 mmol, 30 μL | O.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 7,8-Methylenedioxy-1-phenyl-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | 0.11 mmol, 30 mg, 29% | C1OC=2C(=CC3=C(CC(NN=C3C3=CC=CC=C3)=O)C2)O1 | C16H12N2O3
